US04124723
Preparation of 4-(p-Chlorophenylthio)butyl acetate (Compound 3)
A mixture of 144.6 g of p-chlorothiophenol, 150.6 g of 4-chlorobutyl acetate, 80 g of 50% aqueous solution of sodium hydroxide and 750 ml of ethyl alcohol was heated under reflux for 5 hours. The alcohol was distilled off and ether was added to the cool mixture. After washing with dilute sodium hydroxide solution and then water, the ether solution was dried, evaporated to dryness and distilled. The product was collected at 110°-116° and 0.01 mm, ND25 1.5480.

reactant | p-chlorothiophenol | 144.6 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 4-chlorobutyl acetate | 150.6 g | C(C)(=O)OCCCCCl | C6H11ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl alcohol | 750 ml | C(C)O | C2H6O
product | 4-(p-Chlorophenylthio)butyl acetate | C(C)(=O)OCCCCSC1=CC=C(C=C1)Cl | C12H15ClO2S
